US03979458
A mixture of 0.3 g. of 2-methylcyclopentane-1,3-dione, 0.33 ml. of methylacrylate and 0.1 g. of potassium t-butoxide in 200 ml. of t-butanol is allowed to stand at about 20°C for 72 hours. The reaction mixture is washed with water, dilute sodium hydroxide and then water to neutral, dried and evaporated to give 2-methyl-2-(β-carbomethoxyethyl)cyclopentane-1,3-dione which is purified by distillation. ##SPC6##

reactant | 2-methylcyclopentane-1,3-dione | CC1C(CCC1=O)=O | C6H8O2
reactant | methylacrylate | COC(C=C)=O | C4H6O2
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
solvent | t-butanol | C(C)(C)(C)O | C4H10O
product | 2-methyl-2-(β-carbomethoxyethyl)cyclopentane-1,3-dione | CC1(C(CCC1=O)=O)CCC(=O)OC | C10H14O4
